US09056874B2
a) (±)-2-(1-hydroxy-1-(5-methoxy-7-methyl-1H-indol-4-yl)ethyl)benzo[d]oxazole-5-carbonitrile
A suspension of (±)-tert-butyl-4-(1-(5-cyanobenzo[d]oxazol-2-yl)-1-hydroxyethyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate (6.5 mg, 0.019 mmol) and Cs2CO3 (146 mg, 0.447 mmol) in MeOH (0.5 mL) was heated at 60° C. and stirred for 30 min. The reaction mixture was cooled to rt, quenched with a saturated aq. solution of ammonium chloride, diluted with AcOEt and water. The layers were separated and the aq. layer was extracted with AcOEt. The combined organic layers were dried over MgSO4, filtered and evaporated to dryness. The resulting residue was purified by flash chromatography (0-50% EtOAc:heptanes) to give the title compound. 1H NMR (400 MHz, DMSO-d6) δ ppm 10.88 (br. s., 1H) 8.36 (dd, J=1.39, 0.76 Hz, 1H) 7.65-8.00 (m, 2H) 7.28 (t, J=2.84 Hz, 1H) 6.95 (dd, J=3.03, 2.02 Hz, 1H) 6.62 (s, 1H) 6.31 (s, 1H) 3.19 (s, 3H) 2.44 (d, J=0.51 Hz, 3H) 1.95-2.02 (m, 3H). MS (ESI+) m/z 348.1 (M+H).

reactant | (±)-tert-butyl-4-(1-(5-cyanobenzo[d]oxazol-2-yl)-1-hydroxyethyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate | 0.019 mmol, 6.5 mg | C(C)(C)(C)OC(=O)N1C=CC2=C(C(=CC(=C12)C)OC)C(C)(O)C=1OC2=C(N1)C=C(C=C2)C#N | C25H25N3O5
reactant | Cs2CO3 | 0.447 mmol, 146 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | MeOH | 0.5 mL | CO | CH4O
product | (±)-2-(1-hydroxy-1-(5-methoxy-7-methyl-1H-indol-4-yl)ethyl)benzo[d]oxazole-5-carbonitrile | OC(C)(C1=C2C=CNC2=C(C=C1OC)C)C=1OC2=C(N1)C=C(C=C2)C#N | C20H17N3O3
